US06133303
2-[4-(2-Diethylamino-ethoxy)-benzylidene]-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.505 g, 1.97 mmol) was reacted with 4-(diethylamino)ethoxy benzaldehyde (0.662 g, 3.0 mmol) in 2.5 mL of 4% KOH for 20 hours at room temperature. The reaction was diluted with brine, and the resulting mixture was extracted into DCM. The combined extracts were dried, filtered, and evaporated to dryness. The resulting oil was purified twice by flash chromatography (silica gel, 150 g, 10% MeOH in DCM) to afford 0.274 g (30%) of the title compound as a yellow oil: CI-MS m/e 459 (M+), 460 (M+ +1);

reactant | 6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 1.97 mmol, 0.505 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 4-(diethylamino)ethoxy benzaldehyde | 3.0 mmol, 0.662 g | C(C)N(CC)CCOC1=CC=C(C=O)C=C1 | C13H19NO2
solvent | KOH | 2.5 mL | [OH-].[K+]
solvent | brine | [Cl-].[Na+].O
product | 2-[4-(2-Diethylamino-ethoxy)-benzylidene]-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.274 g, 30% | C(C)N(CCOC1=CC=C(C=C2C(C3=CC=C(C=C3CC2)OCCN2C=NC=C2)=O)C=C1)CC | C28H33N3O3
